US06043254
4.6 3-{(Z)-1-[4-((imidazol-1-yl)methyl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone
Prepared from 3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone and 1.5 equivalents of 4-(imidazol-1-yl)methyl-aniline (melting point: 128-130° C.) in DMF (120° C., 1 hour), pouring into water and washing the precipitate with MeOH and ether. Yield: 90% of theory;

reactant | 3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
reactant | 4-(imidazol-1-yl)methyl-aniline | 1.5 equivalents | N1(C=NC=C1)CC1=CC=C(N)C=C1 | C10H11N3
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-{(Z)-1-[4-((imidazol-1-yl)methyl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone | Yield: 90% | N1(C=NC=C1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C25H19N5O3
